US08247401B2
Step D: 2′,4′-Difluoro-5-piperazin-1-yl-N-{(1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl}biphenyl-3-carboxamide
To a solution of 5-[4-(tert-butoxycarbonyl)piperazin-1-yl]-2′,4′-difluorobiphenyl-3-carboxylic acid (30.0 mg, 0.072 mmol), in N,N-dimethylformamide (1.0 mL) was added (1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethanamine dihydrochloride (22.7 mg, 0.086 mmol), EDC (17.8 mg, 0.093 mmol), HOBT (11.0 mg, 0.072 mmol) and diisopropylethylamine (0.038 mL, 0.215 mmol). After 16 h, the mixture was acidified with hydrochloric acid gas. After 15 min, the mixture was concentrated and purified by reverse phase HPLC (C-18, 95% water/acetonitrile→25% water/acetonitrile with 0.1% trifluoroacetic acid) to give the title compound (28.4 mg). HRMS 492.1833 (M+1). 1H NMR (500 MHz, CD3OD): δ 9.00 (s, 2H); 7.57-7.50 (m, 1H); 7.47-7.43 (m, 2H); 7.24 (q, J=1.7 Hz, 1H); 7.09-7.03 (m, 2H); 5.33 (q, J=7.1 Hz, 1H); 3.25 (t, J=4.9 Hz, 4H); 3.00 (t, J=4.7 Hz, 4H); 1.68 (d, J=7.2 Hz, 3H).

reactant | 5-[4-(tert-butoxycarbonyl)piperazin-1-yl]-2′,4′-difluorobiphenyl-3-carboxylic acid | 0.072 mmol, 30.0 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)C(=O)O | C22H24F2N2O4
reactant | (1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethanamine dihydrochloride | 0.086 mmol, 22.7 mg | Cl.Cl.FC(C1=NC=C(C=N1)[C@@H](C)N)(F)F
reactant | EDC | 0.093 mmol, 17.8 mg
reactant | HOBT | 0.072 mmol, 11.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.215 mmol, 0.038 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 2′,4′-Difluoro-5-piperazin-1-yl-N-{(1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl}biphenyl-3-carboxamide | 28.4 mg | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1CCNCC1)C(=O)N[C@H](C)C=1C=NC(=NC1)C(F)(F)F | C24H22F5N5O
